US06075029
B. Preparation of (S)-7-Benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine
A solution of (S)-1-(5-acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine (350 mg) in methanol (20 ml) was treated with 1 M hydrochloric acid in ether (2.5 ml) and stirred for 12 hours. After evaporation of volatiles under reduced pressure, the residue was dissolved in ethyl acetate (100 ml), washed with saturated aqueous sodium bicarbonate solution (30 ml), dried over magnesium sulfate and concentrated. Yield=270 mg.

reactant | (S)-1-(5-acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine | 350 mg | C(C)(=O)O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)C)C)C | C22H28N4O4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ether | 2.5 ml | CCOCC | C4H10O
product | (S)-7-Benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCCC[C@H](C)O)=O)C)C | C20H26N4O3
